US09062092B2
Compound 58c. (E)-(S)-4-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoic acid
To a vial charged with [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-carbamic acid tert-butyl ester (706 mg, 2 mmol), (S)-2-methoxymethyl-2-methyl-but-3-enoic acid (290 mg, 2 mmol), tri-(o-tolyl)phosphine (610 mg, 2 mmol) and N,N-dicyclohexyl-methyl-amine (0.85 mL, 4 mmol), was added acetonitrile (2 mL) and 1,4-dioxane (6 mL). The vial was purged with nitrogen. Palladium(II) acetate (450 mg, 2 mmol) was added. The vial was sealed and irradiated by microwave at 130° C. for 1 h. The mixture was then treated with saturated solution of potassium hydrogen sulfate. The aqueous layer was extracted with ethyl acetate (2×) and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated. The crude residue was purified by silica gel chromatography using a Biotage KP-Sil 100 g cartridge eluting with a gradient of ethyl acetate/methanol 1:0 to 41:9 to give the title product (0.176 g, 21%) as an amber oil. 1H NMR (300 MHz, CDCl3) δ 1.45 (s, 9H), 1.54 (s, 3H), 1.57 (d, J=6.5 Hz, 3H), 3.47 (s, 3H), 3.62 (d, J=8.7 Hz, 1H), 3.77 (d, J=8.7 Hz, 1H), 4.90-5.10 (m, 1H), 6.60-6.85 (m, 2H), 7.34 (d, J=8.4 Hz, 1H), 7.61 (d, J=8.4 Hz, 1H), 7.75 (d, J=8.4 Hz, 1H), 8.06-8.17 (m, 2H). LCMS (m/z) 415.3 [M+H], Tr=2.11 min.

reactant | [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-carbamic acid tert-butyl ester | 2 mmol, 706 mg | C(C)(C)(C)OC(N[C@H](C)C1=NC2=CC(=CC=C2C=C1)Br)=O | C16H19BrN2O2
reactant | (S)-2-methoxymethyl-2-methyl-but-3-enoic acid | 2 mmol, 290 mg | COC[C@@](C(=O)O)(C=C)C | C7H12O3
reactant | tri-(o-tolyl)phosphine | 2 mmol, 610 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-dicyclohexyl-methyl-amine | 4 mmol, 0.85 mL | C1(CCCCC1)N(C1CCCCC1)C | C13H25N
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
catalyst | Palladium(II) acetate | 2 mmol, 450 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (E)-(S)-4-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoic acid | 0.176 g, 21% | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/[C@@](C(=O)O)(C)COC | C23H30N2O5
